US06797723B1
Preparation of 2-(3-{3-[2-Ethyl-5-hydroxy-4-(3H-imidazol-4-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid hydrochloride.
A mixture of 2-(3-{3-[5-benzyloxy-4-(2-chloroacetyl)-2-ethylphenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester (800 mg, 1.27 mmol), 2-benzyl-2-thiopseudourea hydrochloride (313 mg, 1.52 mmol), sodium iodide (77 mg, 0.51 mmol), and potassium carbonate (700 mg, 5.06 mmol) in N,N-dimethylformamide (20 mL) was treated at 80° C. for 6 h. The mixture was cooled, diluted with diethyl ether, and washed once with water. The organic layer was dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 30% ethyl acetate/70% hexane) of the residue provided 376 mg (40%) of the title compound as a yellow amorphous solid. 1H NMR (CDCl3) δ 7.89 (d, J=8 Hz, 1H), 7.36 (m, 9H), 7.20 (m, 5H), 7.21 (d, J=9 Hz, 1H), 7.06 (d, J=8 Hz, 1H), 6.79 (d, J=8 Hz, 1H), 6.67 (d, J=8 Hz, 1H), 6.55 (s, 1H), 6.43 (d, J=8 Hz, 1H), 5.07 (s, 2H), 4.21 (t, J=6 Hz, 2H), 4.18 (t, J=6 Hz, 2H) , 4.10 (s, 2H), 3.83 (s, 3H), 2.63 (m, 4H), 2.31 (quintet, J=6 Hz, 2H), 1.55 (hextet, J=7 Hz, 2H), 1.18 (t, J=8 Hz, 3H), 0.90 (t, J=7 Hz, 3H); TOF MS ES exact mass calculated for C45H47N2O6S (p+1): m/z=743.3155. Found: 743.3142; IR (CHCL3, cm−1) 2963, 1720, 1602, 1453. Anal. Calcd for C45H46N2O6S: C, 72.75; H. 6.24; N, 3.77. Found: C, 72.69; H, 6.17; N, 3.56.

reactant | 2-(3-{3-[5-benzyloxy-4-(2-chloroacetyl)-2-ethylphenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester | 1.27 mmol, 800 mg | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(CCl)=O)CC)CCC)=O | C37H39ClO7
reactant | 2-benzyl-2-thiopseudourea hydrochloride | 1.52 mmol, 313 mg | Cl.C(C1=CC=CC=C1)SC(N)=N
reactant | sodium iodide | 0.51 mmol, 77 mg | [I-].[Na+]
reactant | potassium carbonate | 5.06 mmol, 700 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3-{3-[2-Ethyl-5-hydroxy-4-(3H-imidazol-4-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid hydrochloride | 376 mg, 40% | Cl.C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1NC=NC1)O | InChI=1S/C30H32N2O6.ClH/c1-3-9-21-26(12-7-13-27(21)38-28-11-6-5-10-22(28)30(34)35)36-14-8-15-37-29-17-25(33)23(16-20(29)4-2)24-18-31-19-32-24;/h5-7,10-13,16-19,33H,3-4,8-9,14-15H2,1-2H3,(H,31,32)(H,34,35);1H
